US07348337B2
Preparation of 4-(1-Bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-(1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester (30.0 g, 0.11 mol) in CHCl3 (300 mL) containing K2CO3 (22.5 g, 0.16 mol) was added a solution of Br2 (5.9 mL, 0.16 mol) in CHCl3 (50 mL) at 0° C. over 1 h. The mixture was allowed to stir for 1 h at room temperature and then it was diluted with water, the layers were separated and the aqueous phase extracted with CH2Cl2. The combined organic layers were washed (H2O, brine), dried (Na2SO4) and evaporated. The residue was dissolved in MeOH (300 mL) and a solution of NaOH (75 g, 1.88 mol) in H2O (250 mL) was slowly added, followed by another 100 mL of MeOH to maintain homogeneity. The mixture was heated at 40° C. for 4 hours and then most of the MeOH was removed in vacuo and the mixture was extracted with EtOAc (×3). The combined organic layers were washed, (H2O, brine), dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (SiO2/hexane-EtOAc, 4:1) to afford the product (36.2 g, 94%) as a yellow-orange solid:

reactant | 4-(1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.11 mol, 30.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC=CC=C1 | C17H23NO2
reactant | K2CO3 | 0.16 mol, 22.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Br2 | 0.16 mol, 5.9 mL | BrBr | Br2
reactant | NaOH | 1.88 mol, 75 g | [OH-].[Na+]
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | H2O | 250 mL | O | H2O
solvent | MeOH | 100 mL | CO | CH4O
product | 4-(1-Bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 36.2 g, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)Br | C17H22BrNO2
